### PR TITLE
Improve reasoning for linked lists

### PR DESCRIPTION
**Pull request by michaelmcinerney**
Please see the commit message

### CODE REVIEW

**Comment by michaelmcinerney** [comment]
There's a typo in the commit message: it should say "the various functions which manipulate the linked list pointers"

File: proof/refine/RISCV64/Ipc_R.thy [hunk 1]
```diff
@@ -3677,35 +3666,23 @@ lemma tcbReleaseEnqueue_corres:
...
-   apply (clarsimp simp: opt_map_def opt_pred_def split: if_splits option.splits)
+   apply (clarsimp simp: release_queue_relation_def)
+   apply (intro hoare_vcg_conj_lift_pre_fix)
+    apply ((wpsimp wp: tcbQueueAppend_list_queue_relation threadSet_sched_pointers | wps)+)[1]
+    apply (frule (1) valid_sched_pointersD[where t=t];
+           clarsimp simp: not_in_release_q_2_def in_opt_pred opt_map_red obj_at'_def)
+   apply (rule hoare_allI, rename_tac t')
+   apply (case_tac "t' = t"; clarsimp)
+    apply (wpsimp wp: threadSet_wp hoare_vcg_all_lift)
+   apply (wpsimp wp: threadSet_opt_pred_other)
```
Comment (lsf37) [inline proof/refine/RISCV64/Ipc_R.thy:3685]: This looks like a dangerous thing to do in general -- is the precondition in the `wp` goal schematic here? If it is fixed, it is fine, but if it is schematic then doing `case_tac` means the second branch needs to work with the precondition the first branch instantiates. In that case we should leave a comment here that we are expecting that to work (that it's not an accident).

File: spec/haskell/src/SEL4/Kernel/Thread.lhs [hunk 2]
```diff
@@ -854,5 +854,3 @@ Kernel init will created a initial thread whose tcbPriority is max priority.
 >         new_queue <- tcbQueueRemove releaseQueue tcbPtr
 >         setReleaseQueue new_queue
 >         threadSet (\t -> t { tcbInReleaseQueue = False }) tcbPtr
-
-%
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Kernel/Thread.lhs:858]: Looks like accidentally committed, should be removed from this commit.

File: proof/refine/RISCV64/TcbAcc_R.thy [hunk 3]
```diff
@@ -2364,15 +2364,387 @@ lemma in_correct_ready_qD:
...
+  "\<lbrace>\<lambda>s. heap_ls (tcbSchedNexts_of s) st ls \<and> t \<notin> set ls\<rbrace>
+   threadSet F t
+   \<lbrace>\<lambda>_ s. heap_ls (tcbSchedNexts_of s) st ls\<rbrace>"
+  apply (wpsimp wp: threadSet_wp)
+  by (fastforce dest: heap_path_heap_upd_not_in)
+
+lemma heap_path_not_Nil:
+  "heap_ls hp (Some st) ls \<Longrightarrow> ls \<noteq> []"
+  by fastforce
+
```
Comment (lsf37) [inline proof/refine/RISCV64/TcbAcc_R.thy:2377]: This one should go into the `heap_ls` theory.

**Review by lsf37 — APPROVED** [review]
Nice improvement! And I like the `find_goal` uses. It's more to type, but should be less brittle and no longer dependent on goal ordering.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 1 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy:3685]: The precondition is fixed here. This is one of those “lopsided” `corres` rules where we have one small thing happening in the abstract (adding or removing an item from a ready or release queue) and a bunch of stuff happening in the Haskell (performing a linked list operation, setting a head/end queue, and then setting a flag). So these rules go via `corres_from_valid`, which I found easiest to perform with fixed guards and preconditions.

File: proof/refine/RISCV64/TcbAcc_R.thy (hunk 3 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/TcbAcc_R.thy:2377]: I’ll put up a small PR for this rule for `master` and then once that’s merged, I can cherry pick it onto this branch

File: proof/refine/RISCV64/Ipc_R.thy (hunk 1 above)
Comment (lsf37) [reply proof/refine/RISCV64/Ipc_R.thy:3685]: 👍 Ok, in that case it's all fine.

File: spec/haskell/src/SEL4/Kernel/Thread.lhs (hunk 2 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Kernel/Thread.lhs]: I tried to revert this change, but I'm not sure it worked. I always get confused about a blank line at the end and what the red sign thing means

Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Kernel/Thread.lhs]: OK I think I've got it now
